US07572820B2
B. 4-Chloro-2-(difluoromethyl)-1-(2-{[4-(methylsulfonyl)phenyl]oxy}ethyl)-1H-indole-5-carbonitrile
To a solution of 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile (0.019 g, 0.084 mmol) in MeCN (2 mL), under N2, was added Cs2CO3 (0.055 g, 0.17 mmol) and 4-[(2-bromoethyl)oxy]phenyl methyl sulfone (0.047 g, 0.17 mmol). The mixture was heated in a sealed tube at 100° C. for 1 h. Upon cooling, the mixture was partitioned between EtOAc and water. The organic phase was washed with sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-70% EtOAc-hexanes gradient) and the product was crystallized from CH2Cl2-hexanes to give the title compound as a white solid (0.022 g, 61% yield): MS (ES) m/z 425 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | 0.084 mmol, 0.019 g | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | Cs2CO3 | 0.17 mmol, 0.055 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-[(2-bromoethyl)oxy]phenyl methyl sulfone | 0.17 mmol, 0.047 g | CS(=O)(=O)C1=CC=C(C=C1)OCCBr | C9H11BrO3S
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 4-Chloro-2-(difluoromethyl)-1-(2-{[4-(methylsulfonyl)phenyl]oxy}ethyl)-1H-indole-5-carbonitrile | 0.022 g, 61% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CCOC1=CC=C(C=C1)S(=O)(=O)C)C(F)F | C19H15ClF2N2O3S
